US09169253B2
1.1 Preparation of tert-butyl 1-(3-methylbut-2-enoyl)-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate
1 g (4.04 mmol) of tert-butyl 2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate was dissolved in 20 mL of dichloromethane and treated with 1.54 mL (8.86 mL) of triethylamine followed by 0.53 mL (4.83 mmol) of 3-methylbut-2-enoyl chloride. The reaction mixture was stirred over night at room temperature, poured onto water (50 mL) and extracted three times with 50 mL of dichloromethane each. The organic phases were combined, washed with a saturated solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica (eluent: 5-10% methanol in dichloromethane) to yield 1.27 g of the title compound as a white solid.

reactant | tert-butyl 2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate | 4.04 mmol, 1 g | N1CCN(CC2=C1C=CC=C2)C(=O)OC(C)(C)C | C14H20N2O2
reactant | triethylamine | 1.54 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methylbut-2-enoyl chloride | 4.83 mmol, 0.53 mL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 1-(3-methylbut-2-enoyl)-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate | 1.27 g | CC(=CC(=O)N1CCN(CC2=C1C=CC=C2)C(=O)OC(C)(C)C)C | C19H26N2O3
